US07759337B2
Synthesis of N-cyclopropyl-3-(1-(2-(diethylamino)ethylamino)phthalazin-6-yl)-4-methylbenzamide
6-Bromo-N-(2-(diethylamino)ethyl)phthalazin-1-amine (140 mg, 430 μmol), potassium acetate (60 mg, 610 μmol), bis(pinacolato)diboron (150 mg, 610 μmol), and 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride (32 mg, 40 μmol) were suspended in dioxane (4 mL) and heated in the microwave for 10 min at 160° C. The reaction was added to a mixture of 3-bromo-N-cyclopropyl-4-methylbenzamide (110mg, 430 μmol), sodium carbonate-2 M in water (0.33 mL, 0.65 mmol), tetrakis(triphenylphosphine)palladium (50 mg, 40 μmol), and ethyl alcohol (5 mL), the combination of which was heated in the microwave for 10 min at 160° C. The reaction mixture was diluted with 20 mL of EtOAc, added to an addition funnel and partitioned with sodium bicarbonate (saturated, aqueous). The organic layer was washed 3 times with 20 mL of sodium bicarbonate (saturated, aqueous), dried over sodium sulfate, and concentrated via rotovap to give crude product. The crude was purified by chromatography to obtain the title compound. Found MS (ES+): 418(M+H)+.

reactant | 6-Bromo-N-(2-(diethylamino)ethyl)phthalazin-1-amine | 430 μmol, 140 mg | BrC=1C=C2C=NN=C(C2=CC1)NCCN(CC)CC | C14H19BrN4
reactant | potassium acetate | 610 μmol, 60 mg | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 610 μmol, 150 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 3-bromo-N-cyclopropyl-4-methylbenzamide | 430 μmol, 110mg | BrC=1C=C(C(=O)NC2CC2)C=CC1C | C11H12BrNO
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 0.65 mmol, 0.33 mL | O | H2O
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride | 40 μmol, 32 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | tetrakis(triphenylphosphine)palladium | 40 μmol, 50 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl alcohol | 5 mL | C(C)O | C2H6O
product | N-cyclopropyl-3-(1-(2-(diethylamino)ethylamino)phthalazin-6-yl)-4-methylbenzamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)NCCN(CC)CC)=O | C25H31N5O
